US06514971B1
A solution of 4-chloro-7-(2-methoxyethoxy)cinnoline (156 mg, 0.65 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (111 mg, 0.78 mmol), (prepared as described for the starting material in Example 11), in 2-pentanol (8 ml) and 5M isopropanolic hydrogen chloride (1 ml) was heated at 120° C. for 2.5 hours. The solid was filtered off washed with isopropanol and then ether and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)cinnoline hydrochloride (207 mg, 84%).

reactant | 4-chloro-7-(2-methoxyethoxy)cinnoline | 0.65 mmol, 156 mg | ClC1=CN=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.78 mmol, 111 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
reactant | hydrogen chloride | 5M, 1 ml | Cl | ClH
solvent | 2-pentanol | 8 ml | CC(CCC)O | C5H12O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethoxy)cinnoline hydrochloride | 207 mg, 84% | Cl.FC1=C(NC2=CN=NC3=CC(=CC=C23)OCCOC)C=C(C(=C1)C)O | InChI=1S/C18H18FN3O3.ClH/c1-11-7-14(19)16(9-18(11)23)21-17-10-20-22-15-8-12(3-4-13(15)17)25-6-5-24-2;/h3-4,7-10,23H,5-6H2,1-2H3,(H,21,22);1H
